// Generated for: spectre
// Generated on: Mar 31 11:44:37 2026
// Design library name: ESE_6680
// Design cell name: test
// Design view name: schematic
simulator lang=spectre
global 0
parameters Cf=1.35p Ch=1.35p
include "/lcars/home/e/ese6680/ami06.scs"

// Library name: ESE_6680
// Cell name: opamp_project_1
// View name: schematic
subckt opamp_project_1 Gnd Output Vdd Vin\+ Vin\-
    M6 (Output net55 Gnd Gnd) ami06N w=60u l=1.65u as=9e-11 ad=9e-11 \
        ps=123.000000u pd=123.000000u m=1 region=sat
    M3 (net49 net49 Gnd Gnd) ami06N w=16.5u l=3u as=2.475e-11 ad=2.475e-11 \
        ps=36.0u pd=36.0u m=1 region=sat
    M4 (net55 net49 Gnd Gnd) ami06N w=16.5u l=3u as=2.475e-11 ad=2.475e-11 \
        ps=36.0u pd=36.0u m=1 region=sat
    Rc (net55 net59) resistor r=4.15K m=1
    Cc (net59 Output) capacitor c=1.1p m=1
    M7 (Output net48 Vdd Vdd) ami06P w=268.05u l=3u as=4.02075e-10 \
        ad=4.02075e-10 ps=539.1u pd=539.1u m=1 region=sat
    M8 (net48 net48 Vdd Vdd) ami06P w=43.95u l=3u as=6.5925e-11 \
        ad=6.5925e-11 ps=90.9u pd=90.9u m=1 region=sat
    M5 (net52 net48 Vdd Vdd) ami06P w=37.05u l=1.8u as=5.5575e-11 \
        ad=5.5575e-11 ps=77.1u pd=77.1u m=1 region=sat
    M1 (net49 Vin\- net52 net52) ami06P w=115.05u l=3u as=1.72575e-10 \
        ad=1.72575e-10 ps=233.1u pd=233.1u m=1 region=sat
    M2 (net55 Vin\+ net52 net52) ami06P w=115.05u l=3u as=1.72575e-10 \
        ad=1.72575e-10 ps=233.1u pd=233.1u m=1 region=sat
    I13 (net48 Gnd) isource type=dc dc=40u m=1
ends opamp_project_1
// End of subcircuit definition.

// Library name: ESE_6680
// Cell name: test
// View name: schematic
V0 (VDD 0) vsource type=dc dc=5
V15 (net09 0) vsource type=dc dc=2.5
V12 (net1 0) vsource type=dc dc=2.5
W6 (net2 net09 CLK2 0) relay ropen=1T rclosed=1.0
W5 (net5 Output CLK1 0) relay ropen=1T rclosed=1.0
W3 (Vin net2 CLK1 0) relay ropen=1T rclosed=1.0
C9 (Output 0) capacitor c=1p m=1
C6 (net2 net5) capacitor c=Ch m=1
C5 (net5 Output) capacitor c=Cf m=1
V2 (Vin 0) vsource type=sine sinedc=2.5 ampl=1.5 freq=500K
I38 (0 Output VDD net1 net5) opamp_project_1
V10 (CLK1 0) vsource type=pulse dc=2.5 val0=0 val1=5 period=200n delay=0 \
        rise=200.0p fall=200.0p width=90n
V11 (CLK2 0) vsource type=pulse dc=2.5 val0=0 val1=5 period=200n \
        delay=100n rise=200.0p fall=200.0p width=90n
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=10u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
