// Generated for: spectre
// Generated on: Feb  8 20:04:53 2026
// Design library name: ESE_6680
// Design cell name: two-stage_opamp
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/lcars/home/e/ese6680/ami06.scs"

// Library name: ESE_6680
// Cell name: two-stage_opamp
// View name: schematic
P4 (net2 net2 vdd! vdd!) ami06P w=40.05u l=1.2u as=6.0075e-11 \
        ad=6.0075e-11 ps=83.1u pd=83.1u m=1 region=sat
P3 (net010 net2 vdd! vdd!) ami06P w=229.95u l=1.2u as=3.44925e-10 \
        ad=3.44925e-10 ps=462.9u pd=462.9u m=1 region=sat
P2 (net6 net2 vdd! vdd!) ami06P w=40.05u l=1.2u as=6.0075e-11 \
        ad=6.0075e-11 ps=83.1u pd=83.1u m=1 region=sat
P1 (net7 net11 net6 net6) ami06P w=49.95u l=900n as=7.4925e-11 \
        ad=7.4925e-11 ps=102.9u pd=102.9u m=1 region=sat
P0 (net3 net014 net6 net6) ami06P w=49.95u l=900n as=7.4925e-11 \
        ad=7.4925e-11 ps=102.9u pd=102.9u m=1 region=sat
N2 (net010 net7 0 0) ami06N w=67.35u l=900n as=1.01025e-10 ad=1.01025e-10 \
        ps=137.7u pd=137.7u m=1 region=sat
N1 (net7 net3 0 0) ami06N w=8.7u l=900n as=1.305e-11 ad=1.305e-11 ps=20.4u \
        pd=20.4u m=1 region=sat
N0 (net3 net3 0 0) ami06N w=8.7u l=900n as=1.305e-11 ad=1.305e-11 ps=20.4u \
        pd=20.4u m=1 region=sat
I0 (net2 0) isource type=dc dc=20u m=1
R0 (net7 net18) resistor r=1K m=1
C1 (net010 0) capacitor c=2p m=1
C0 (net010 net18) capacitor c=1p m=1
V6 (net11 0) vsource type=dc dc=2.5 mag=500m
V5 (net014 0) vsource type=dc dc=2.5 mag=-500m
V0 (vdd! 0) vsource type=dc dc=5
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
ac ac start=10 stop=100G dec=100 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
